* C:\Users\chadl\Desktop\UAV_Quad\UAV_altium\PWM_Signal_Amplifier_Circuit.asc
XU1 N001 N003 5V 0 N002 OP284
V§P5V 5V 0 5
V§PWM_3V3 N001 0 PULSE(0 3.3 0 0 0 1m 2m 5)
R1 N003 0 6.0k
R2 N002 N003 3k
* pwm from RPi
* pwm to ESC
.tran 10m
.lib ADI1.lib
.backanno
.end
